US04550105
Under ice-cooling and stirring, 41 mg of sodium monomethyldithiocarbamate is added to 4 ml of an aqueous solution containing 150 mg of sodium cis-4-acetoxymethyl-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (syn-isomer). The mixture is stirred at room temperature for 30 minutes, and another 10 mg of sodium monomethyldithiocarbamate is added. The stirring is continued for an additional 30 minutes, and the reaction mixture is filtered. The filtrate is then washed with ether, and the aqueous layer is purified by column chromatography on Amberlite XAD-II and then lyophilized to give sodium cis-4-acetoxymethyl-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (syn-isomer).

reactant | sodium monomethyldithiocarbamate | 41 mg | CSC(N)=S.[Na]
reactant | sodium cis-4-acetoxymethyl-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | 150 mg | C(C)(=O)OC[C@@H]1[C@@H](C(N1S(=O)(=O)[O-])=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O.[Na+]
reactant | sodium monomethyldithiocarbamate | 10 mg | CSC(N)=S.[Na]
product | sodium cis-4-acetoxymethyl-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | C(C)(=O)OC[C@@H]1[C@@H](C(N1S(=O)(=O)[O-])=O)NC(C(=NOC)C=1N=C(SC1)N)=O.[Na+] | InChI=1S/C12H15N5O8S2.Na/c1-5(18)25-3-7-9(11(20)17(7)27(21,22)23)15-10(19)8(16-24-2)6-4-26-12(13)14-6;/h4,7,9H,3H2,1-2H3,(H2,13,14)(H,15,19)(H,21,22,23);/q;+1/p-1/t7-,9+;/m1./s1
